US06677353B2
The N-(3-phenoxyphenyl)[[3-(1,1-dimethylethoxy)phenyl]methyl]amine (0.270 g, 0.78 mmol) product from EX-654B was dissolved in 2 mL of acetonitrile. Ytterbium triflate (16 mg, 0.026 mmol) was added in 0.5 mL of acetonitrile, and the mixture was stiffed under nitrogen. 1,1,1-Trifluoro-2,3-epoxypropane (0.105 g, 0.94 mmol) was added, the vial was sealed and heated to 45° C. After 24 h, TLC analysis showed 50% conversion, so additional 1,1,1-trifluoro-2,3-epoxypropane (88.6 mg, 0.79 mmol) was added and heating continued for an additional 24 h. The resulting mixture was eluted from silica gel with an ethyl acetate in hexane gradient (1.5-7% ethyl acetate). Fractions were pooled based on TLC analysis to give 150 mg (42%) of the desired 3-[(3-phenoxy-phenyl)[[3-(1, 1-dimethylethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol product as a clear, colorless oil, and an additional 60 mg (17%) was obtained as an amber oil. HRMS calcd. for C26H28F3NO3: 460.2100 [M+H]+, found: 460.2103. 1H NMR (C6D6) δ 6.78-7.08 (m, 9H), 6.68 (d, 1H), 6.55 (t, 1H), 6.43 (dd, 1H), 6.34 (dd, 1H), 4.23 (s, 2H), 3.81 (m, 1H), 3.48 (dd, 1H), 3.24 (m, 1H), 2.25 (br s, 1H), 1.07 (s, 9H). 19F NMR (C6D6) δ −78.92 (d, 3F).

reactant | N-(3-phenoxyphenyl)[[3-(1,1-dimethylethoxy)phenyl]methyl]amine | 0.78 mmol, 0.270 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)NCC1=CC(=CC=C1)OC(C)(C)C | C23H25NO2
reactant | 1,1,1-Trifluoro-2,3-epoxypropane | 0.94 mmol, 0.105 g | FC(C1CO1)(F)F | C3H3F3O
reactant | 1,1,1-trifluoro-2,3-epoxypropane | 0.79 mmol, 88.6 mg | FC(C1CO1)(F)F | C3H3F3O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
catalyst | Ytterbium triflate | 0.026 mmol, 16 mg | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
product | 3-[(3-phenoxy-phenyl)[[3-(1, 1-dimethylethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | 150 mg, 42% | O(C1=CC=CC=C1)C=1C=C(C=CC1)N(CC(C(F)(F)F)O)CC1=CC(=CC=C1)OC(C)(C)C | C26H28F3NO3
